US08476297B2
Step 1. 3,4-Difluoro-N-phenethylbenzamide
To a stirred solution of phenethylamine (1.01 mL, 7.95 mmol) and DIEA (1.38 mL, 7.95 mmol) in 20 mL of DCM, 3,4-difluorobenzoyl chloride (1.00 mL, 7.95 mmol) was added dropwise. The clear solution was stirred for 1 h. The reaction mixture was concentrated and the crude product was purified by silica gel chromatography (0-30% EtOAc in hexanes) to give the title compound as a white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 7.57 (ddd, J=10.63, 7.56, 2.12 Hz, 1H) 7.31-7.44 (m, 3H) 7.15-7.31 (m, 4H) 6.02 (br. s., 1H) 3.67-3.78 (m, 2H) 2.94 (t, J=6.87 Hz, 2H).

reactant | phenethylamine | 7.95 mmol, 1.01 mL | C(CC1=CC=CC=C1)N | C8H11N
reactant | DIEA | 7.95 mmol, 1.38 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,4-difluorobenzoyl chloride | 7.95 mmol, 1.00 mL | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Difluoro-N-phenethylbenzamide | FC=1C=C(C(=O)NCCC2=CC=CC=C2)C=CC1F | C15H13F2NO
